US07863305B2
5-[(1H-Indol-3-yl)-phenyl-methyl]-2,2-dimethyl-[1,3]dioxane-4,6-dione (0.500 g) was dissolved in dry pyridine (5 ml) in a sealable test tube. To this solution was added methyl amine (2.0 ml, 2M in THF) and the tube was sealed and immersed in an oil bath which had been preheated to 120° C. The tube was heated at this temperature for 2 hours, after which time it was cooled and diluted with ice water. The product was extracted into ethyl acetate, washed with dilute HCl, dried (MgSO4) and evaporated to dryness to afford 0.338 g of 3-(1H-indol-3-yl)-N-methyl-3-phenyl-propionamide, (85%, MS (M+H)=279), which was used in the following step without further purification.

reactant | 5-[(1H-Indol-3-yl)-phenyl-methyl]-2,2-dimethyl-[1,3]dioxane-4,6-dione | 0.500 g | N1C=C(C2=CC=CC=C12)C(C1C(OC(OC1=O)(C)C)=O)C1=CC=CC=C1 | C21H19NO4
reactant | methyl amine | 2M, 2.0 ml | CN | CH5N
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-(1H-indol-3-yl)-N-methyl-3-phenyl-propionamide | 0.338 g, 85% | N1C=C(C2=CC=CC=C12)C(CC(=O)NC)C1=CC=CC=C1 | C18H18N2O
